US20010056194A1
To a solution of m-xylylene dichloride (25.0 g) in methanol (125 ml) was added a 28% methanol solution (82.6 g) containing sodium methoxide at room temperature, and the mixture was stirred with heating at 60° C. for 3 hr. The solvent was evaporated and water (150 ml) was added to the residue. The mixture was extracted twice with heptane (80 ml) and heptane was evaporated under reduced pressure to give m-xylylene glycol dimethyl ether (25.3 g). m-Xylylene glycol dimethyl ether (25.3 g) was dissolved in acetic acid (125 ml) and sodium acetate (68 g) was added, which was followed by dropwise addition of bromine (68 g) at room temperature. The mixture was stirred at room temperature for 3 hr and poured into 10% aqueous sodium sulfite solution (750 ml), which mixture was extracted twice with heptane (350 ml). The heptane layer was extracted twice with 10% aqueous sodium hydroxide solution (150 ml) and once with water (150 ml). The solvent was evaporated and the residue was purified by silica gel column chromatography using heptane-ethyl acetate (15:1) as an eluent to give the title compound (10.4 g, yield:29.7%) as a colorless transparent oil.

reactant | m-xylylene dichloride | 25.0 g | C1(=CC(=CC=C1)CCl)CCl | C8H8Cl2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 125 ml | CO | CH4O
reactant | methanol | 82.6 g | CO | CH4O
product | m-xylylene glycol dimethyl ether | 25.3 g | COCC1=CC(=CC=C1)COC | C10H14O2
